US05242945
To a solution of 18.2 g (43 mmol) of 4-chlorobenzyltriphenylphosphonium chloride in 200 mL of dry tetrahydrofuran at -78° C. is added dropwise, 30.7 mL (43 mmol) of a 1.4M solution of potassium hexamethyldisilazide in tetrahydrofuran. This is allowed to stir for 1 hour when 8.0 g (43 mmol) of 8-carbomethoxyoctanal is added dropwise. The solution is stirred at -78° C. for 2 hours, allowed to warm to room temperature, and stirred for 2 days. The reaction is worked up by adding water and extracting three times with diethyl ether. The ether extracts are combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give a yellow solid. Pad filtration through flash silica gel eluting with 10% ethyl acetate/hexane, gives a yellow oil after concentration in vacuo. Flash chromatography on a 60 mm×150 mm silica column eluting with 5% ethyl acetate/hexane gives 1.62 g (13%) of 10-(4-chlorophenyl)-dec-9-enoic acid methyl ester as a mixture of E and Z isomers.

reactant | 4-chlorobenzyltriphenylphosphonium chloride | 43 mmol, 18.2 g | [Cl-].ClC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 8-carbomethoxyoctanal | 43 mmol, 8.0 g | C(=O)(OC)CCCCCCCC=O | C10H18O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 10-(4-chlorophenyl)-dec-9-enoic acid methyl ester | 1.62 g, 13% | COC(CCCCCCCC=CC1=CC=C(C=C1)Cl)=O | C17H23ClO2
